Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine and Iodide Containing Products
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with a history of ulcerative 
colitis on azathioprine,
sulfasalazine, and steroids (20mg QD equivalent), who presents 
with shortness of breath and chest pain.

The patient states that the pain was acute in onset, severe in 
nature, pleuritic, non-radiating, and not associated with food 
or exertion. The pain has persisted since last night and makes 
it
difficult to breathe. She had an 8 hour car ride about 1 week 
ago and 2 other long car rides over the past several weeks. Does 
not report fevers or chills, cough, palpitations, abdominal 
pain, nausea and vomiting, diarrhea, dysuria, arthralgias, and 
rash. Of note, patient has anaphylactic reaction to iodinated 
contrast.

In the ED, initial VS were: T 97.3, HR 79, BP 148/67, RR 18, O2 
sat 100% RA

Exam notable for: Nontender abdomen. Point tender right anterior 
ribs

ECG: NSR, NAD, NI, TWF in III

Labs showed: WBC 11.6, Hgb 12.7, platelets 174, Cr 0.7, troponin 
<0.01 x2, CK-MB 2, UA w/ small blood and few bacteria

Imaging showed: CXR- Vague nodular opacity in the right lower 
lung, indeterminate, atypical appearance for infection. Consider 
non-emergent CT to better assess.

LENIs- No evidence of deep venous thrombosis in the right or 
left lower extremity veins.

RUQUS- Cholelithiasis without evidence of acute cholecystitis

CT chest- 1. No acute intrathoracic abnormality. 
2. 3 mm pulmonary nodule, recommend follow-up per the ___
criteria as detailed below.
3. Cholelithiasis

Consults: None

Patient received: No medications given.

Transfer VS were: HR 68, BP 128/61, RR 16, O2 sat 99% RA

On arrival to the floor, the patient confirmed the above 
history. She states that she had similar pain a couple of months 
ago, but chalked it up to carrying her grandchild. Her current 
chest pain makes it difficult to take a deep breath and cough. 
Otherwise does not report fevers, chills, chest pain, shortness 
of breath, nausea, vomiting, abdominal pain, and changes in 
bowel or bladder habits. With regard to her UC, the patient has 
several bowel movements in the morning usually with no blood. 
Few bowel movements in the ___.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI
 
Past Medical History:
inflammatory bowel disease 
rheumatic fever 
atypical chest pain
palpitations
 
Social History:
___
Family History:
No family history of clotting disorders. Father died of possible 
___. Mother died of "old age".
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.5 ___
GENERAL: NAD, pleasant, comfortable
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, nl S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric
DERM: warm and well perfused, no excoriations or lesions, no 
rashes

PHYSICAL EXAM:
VS: ___ 0714 Temp: 97.7 PO BP: 143/82 L Sitting HR: 53 RR:
18 O2 sat: 97% O2 delivery: Ra 
GENERAL: NAD, pleasant, comfortable
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, nl S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
Chest wall: extremely tender to palpation under the R breast, 
wrapping around to the back, along the rib line
GI: abdomen soft, nondistended, mildly tender in all quadrants, 
no rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema, scattered 
ecchymoses on the extremities
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric
DERM: warm and well perfused, scattered petichiae on the R 
forearm, no significant rash
 
Pertinent Results:
ADMISSION LABS:
============
___ 01:55PM BLOOD WBC-11.6* RBC-4.11 Hgb-12.7 Hct-39.6 
MCV-96 MCH-30.9 MCHC-32.1 RDW-14.6 RDWSD-52.3* Plt ___
___ 01:55PM BLOOD Neuts-70.2 Lymphs-16.2* Monos-11.3 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-8.17* AbsLymp-1.88 
AbsMono-1.31* AbsEos-0.06 AbsBaso-0.03
___ 01:55PM BLOOD Glucose-78 UreaN-15 Creat-0.7 Na-141 
K-4.6 Cl-101 HCO3-26 AnGap-14
___ 01:55PM BLOOD ALT-22 AST-21 AlkPhos-58 TotBili-0.4
___ 07:55PM BLOOD CK(CPK)-128
___ 01:55PM BLOOD Lipase-30
___ 01:55PM BLOOD cTropnT-<0.01
___ 07:55PM BLOOD CK-MB-2
___ 07:55PM BLOOD cTropnT-<0.01
___ 01:55PM BLOOD Albumin-4.2

___ 02:11PM URINE Color-Yellow Appear-Clear Sp ___
___ 02:11PM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 02:11PM URINE RBC-4* WBC-1 Bacteri-FEW* Yeast-NONE 
Epi-0

DISCHARGE LABS:
============
___ 06:55AM BLOOD WBC-9.2 RBC-4.07 Hgb-12.8 Hct-38.8 MCV-95 
MCH-31.4 MCHC-33.0 RDW-14.6 RDWSD-51.4* Plt ___
___ 06:55AM BLOOD Glucose-124* UreaN-16 Creat-0.7 Na-140 
K-4.5 Cl-101 HCO3-22 AnGap-17
___ 06:55AM BLOOD Calcium-9.3 Phos-3.6 Mg-2.1

MICROBIOLOGY:
===========
___    URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING:
=======
___
CXR- Vague nodular opacity in the right lower lung, 
indeterminate, atypical appearance for infection. Consider 
non-emergent CT to better assess.

LENIs- No evidence of deep venous thrombosis in the right or 
left lower extremity veins.

RUQUS- Cholelithiasis without evidence of acute cholecystitis

CT chest- 
1. No acute intrathoracic abnormality.
2. 3 mm pulmonary nodule, recommend follow-up per the ___
criteria as detailed below.
3. Cholelithiasis

RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule
smaller than 6 mm, no CT follow-up is recommended in a low-risk 
patient, and
an optional CT in 12 months is recommend in a high-risk patient.
 
See the ___ ___ Guidelines for the Management 
of Pulmonary
Nodules Incidentally Detected on CT" for comments and reference:
___

___
LUNG SCAN (V/Q)
Normal lung scan.  A normal lung scan rules out recent pulmonary
embolism.
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with a history of ulcerative 
colitis on azathioprine, sulfasalazine, and steroids (20mg QD 
equivalent), who presents with shortness of breath and chest 
pain with concern for PE.

#Chest pain: 
#Chest wall tenderness:
#Exertional dyspnea: 
Patient endorsed chest discomfort under her right breast in the 
setting of multiple long car rides, recent muscle strain, and 
recent viral URI symptoms. The pain was acute onset 2 days after 
she picked up her grandson in a strange way. It was in the same 
location as a prior muscle strain, pleuritic in nature, not 
initiated by exertion but exacerbated by it, and chest wall was 
very tender on palpation. Workup in ED included DVT studies 
(negative), CXR which showed no acute abnormality, CT chest with 
incidental pulmonary nodule and cholelithiasis but no 
explanation for her chest pain. Blood work was notable for a 
mild leukocytosis to 11.6 which resolved on HD1, normal BMP and 
LFTs, lipase, non-ischemic EKG with Troponin negative x2. She 
was offered a Lidocaine patch but says she previously tried one 
without relief. She had recent URI symptoms but location of her 
pain did not seem consistent with costochondritis. She was 
admitted for a VQ scan due to her history of anaphylaxis to 
iodinated contrast, which was normal. Reassuringly, ambulatory 
O2 sats and HR were normal and patient felt comfortable 
ambulating and returning home. Ultimately patient and inpatient 
team thought her pain was most likely due to a musculoskeletal 
strain.

#Lung nodule: 
Incidentally found on CT chest, 3mm. Radiology recommended 
followup per ___ Guidelines: "For incidentally 
detected single solid pulmonary nodule smaller than 6 mm, no CT 
follow-up is recommended in a low-risk patient, and an optional 
CT in 12 months is recommend in a high-risk patient." She was 
discharged with a CD with all images and recommended to discuss 
with her PCP.

#Ulcerative colitis
Continued all home meds including azathioprine, sulfasalazine, 
prednisone, Cortenema.

TRANSITIONAL ISSUES:
======================
[] Pulmonary nodule incidentally noted, please see above
[] Patient noted small ecchymoses with scattered petichiae on 
her forearms which were very concerning to patient, hemoglobin 
was stable at 12.8
[] Noted to have microscopic hematuria on routine UA with small 
blood and 4 RBC, would followup outpatient and consider further 
workup as warranted 
[] Mild hyperglycemia 124 noted on a.m. chem panel
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. SulfaSALAzine_ 1000 mg PO TID 
2. AzaTHIOprine 75 mg PO DAILY 
3. PredniSONE 9 mg PO DAILY 
4. Hydrocortisone Enema 100 mg PR QHS 
5. FoLIC Acid 1 mg PO DAILY 
6. Propranolol 10 mg PO DAILY:PRN palpitations 
7. Diazepam 4 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % 1 patch every morning Disp #*15 Patch 
Refills:*0 
3.  AzaTHIOprine 75 mg PO DAILY  
4.  Diazepam 4 mg PO QHS:PRN insomnia  
5.  FoLIC Acid 1 mg PO DAILY  
6.  Hydrocortisone Enema 100 mg PR QHS  
7.  PredniSONE 9 mg PO DAILY  
8.  Propranolol 10 mg PO DAILY:PRN palpitations  
9.  SulfaSALAzine_ 1000 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
right sided chest pain
musculoskeletal strain
Secondary:
Ulcerative Colitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because of pain in the right side of 
your chest.

While you were here, you had tests of your heart and lungs that 
showed you did not have a heart attack, pneumonia, fluid around 
your lung, or blood clot in your lung or in your legs. You most 
likely have a muscle strain based on your symptoms. You did very 
well walking around. You are now safe to go home. You can 
Tylenol for your pain.

After you leave the hospital, please talk to you primary care 
doctor about whether you should have another CT scan of your 
chest to follow a 3 mm pulmonary nodule that was found. 

It was a pleasure caring for you and we wish you the best,
Your ___ Team
 
Followup Instructions:
___